US06787551B2
4-[2-(N-methyl-N-(2-(4-anilinyl)pyridinyl)amino)ethoxy]benzaldehyde
The title compound (3.19 g) was prepared by the same procedure as the preparation 3 except for using 2-[N-methyl-N-(2-(4-anilinyl)pyridinyl)amino]ethanol (3.84 g) and 4-fluorobenzaldehyde (3.2 g).

reactant | 2-[N-methyl-N-(2-(4-anilinyl)pyridinyl)amino]ethanol | 3.84 g | CN(C=1C(=NC=CC1)C1=CC=C(N)C=C1)CCO | C14H17N3O
reactant | 4-fluorobenzaldehyde | 3.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[2-(N-methyl-N-(2-(4-anilinyl)pyridinyl)amino)ethoxy]benzaldehyde | 3.19 g | CN(C=1C(=NC=CC1)C1=CC=C(N)C=C1)CCOC1=CC=C(C=O)C=C1 | C21H21N3O2
